US06562811B1
To a stirred solution of tert-butyl 4-[2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(hydroxymethyl)-4-pyridinyl]-1-piperidinecarboxylate (0.250 g, 0.528 mmol) in acetonitrile(10 mL) was added 1,1′-carbonyldiimidazole (0.170 g, 1.056 mmol) at room temperature. After stirred for 2 hrs, the reaction mixture was extracted with ethyl acetate and water. The separated organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting solid was collected by filtration, washed with hexane, and dried under reduced pressure to give tert-butyl 4-[2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(1H-imidazol-1-ylmethyl)-4-pyridinyl]-1-piperidinecarboxylate. (0.242 g, yield 88%)

reactant | tert-butyl 4-[2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(hydroxymethyl)-4-pyridinyl]-1-piperidinecarboxylate | 0.528 mmol, 0.250 g | NC1=NC(=CC(=C1CO)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1 | C26H35N3O5
reactant | 1,1′-carbonyldiimidazole | 1.056 mmol, 0.170 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl 4-[2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(1H-imidazol-1-ylmethyl)-4-pyridinyl]-1-piperidinecarboxylate | yield 88% | NC1=NC(=CC(=C1CN1C=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1 | C29H37N5O4
